US07745663B2
3-Methylsulfanyl-propan-1-ol (4.133 g, 38.92 mmol) was dissolved in THF (anhydrous, 100 mL). To this solution, triphenylphosphine (10.2 g, 38.92 mmol) and N-hydroxyphthalimide (6.4 mg, 38.92 mmol) were added and dissolved with stirring. Diisopropyl azodicarboxylate (8.5 mL, 42.812 mmol) was added dropwise thereto with cooling the reaction vessel in an ice-bath under nitrogen atmosphere. The reaction mixture was warmed to room temperature, and stirred for 5 hours. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, and triturated with diethyl ether:hexane (1:1, about 100 ml) to precipitate triphenylphosphine oxide as a white solid, which was filtered off. The filtrate was concentrated under reduced pressure to give a yellow oily residue. The resultant yellow oil was purified by silica gel flash chromatography (BW300, Fuji Silysia Chemical, 20% ethyl acetate/hexane as an eluent) to give 2-(3-methylsulfanyl-propoxy)-isoindole-1,3-dione (6.4 g, 65%).

reactant | 3-Methylsulfanyl-propan-1-ol | 38.92 mmol, 4.133 g | CSCCCO | C4H10OS
reactant | triphenylphosphine | 38.92 mmol, 10.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 38.92 mmol, 6.4 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Diisopropyl azodicarboxylate | 42.812 mmol, 8.5 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(3-methylsulfanyl-propoxy)-isoindole-1,3-dione | 6.4 g, 65% | CSCCCON1C(C2=CC=CC=C2C1=O)=O | C12H13NO3S
